US06573263B2
Analogously to Example 1, 80 mg (0.17 mmol) of 2-acetyl-N-{1-[3-(1-naphthylmethyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenylpentanamide and 28.0 mg (0.18 mmol) of phosphorus oxychloride are reacted to give 7-(1-acetyl-4-phenylbutyl)-5-methyl-2-(1-naphthylmethyl)imidazo[5,1-f][1,2,4]triazin-4(3H)-one.

reactant | 2-acetyl-N-{1-[3-(1-naphthylmethyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenylpentanamide | 0.17 mmol, 80 mg | C(C)(=O)C(C(=O)NC(C)C=1C(NC(=NN1)CC1=CC=CC2=CC=CC=C12)=O)CCCC1=CC=CC=C1 | C29H30N4O3
reactant | phosphorus oxychloride | 0.18 mmol, 28.0 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(1-acetyl-4-phenylbutyl)-5-methyl-2-(1-naphthylmethyl)imidazo[5,1-f][1,2,4]triazin-4(3H)-one | C(C)(=O)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC2=CC=CC1=CC=CC=C21)=O)C | C29H28N4O2
